US08895580B2
Step 3: Preparation of 4-{[2-(2-fluorophenyl)-3-oxo-2,3-dihydro-5H-pyrazolo[4,3-c]quinolin-5-yl]methyl}-N-methylpiperidine-1-carboxamide
2-(2-Fluorophenyl)-5-(piperidin-4-ylmethyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one (30 mg, 0.080 mmol) was dissolved in dichloromethane (2 ml) and tetrahydrofuran (1 ml), treated with triethylamine (0.011 ml, 0.080 mmol, 1 equiv) and methylimino(oxo)methane (4.55 mg, 0.080 mmol) were added. After 10 minutes, the mixture was concentrated in vacuo and the residue was purified by silica gel gradient chromatography (80:20 to 70:30; dichlormethane:methanol), providing the titled compound: 1H-NMR (400 MHz, d6-DMSO) δ 8.85 (1H, s), 8.21 (1H, dd, J=, 7.9, 1.6 Hz), 7.98 (1H, d, J=8.7 Hz), 7.61-7.56 (2H, m), 7.47-7.30 (4H, m), 6.37 (1H, q, J=4.2 Hz), 5.70 (2H, br s), 4.35 (2H, d, J=6.8 Hz), 3.94 (2H, br d, J=13.6 Hz), 2.52 (3H, d, J=4.9 Hz), 2.13-2.02 (1H, m), 1.49 (2H, br d, J=12.3 Hz), 1.25-1.13 (2H, m) ppm; high resolution mass spectrometry (ES+) m/z 434.1998 [(M+H)+; calculated for C24H25FN5O2: 434.1987].

reactant | 2-(2-Fluorophenyl)-5-(piperidin-4-ylmethyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | 0.080 mmol, 30 mg | FC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC2CCNCC2)C1=O | C22H21FN4O
reactant | triethylamine | 0.080 mmol, 0.011 ml, 1 equiv | C(C)N(CC)CC | C6H15N
reactant | methylimino(oxo)methane | 0.080 mmol, 4.55 mg | CN=C=O | C2H3NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-{[2-(2-fluorophenyl)-3-oxo-2,3-dihydro-5H-pyrazolo[4,3-c]quinolin-5-yl]methyl}-N-methylpiperidine-1-carboxamide | FC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC2CCN(CC2)C(=O)NC)C1=O | C24H24FN5O2
